US05324832
Synthesis of 5,11-Dihydro-11-[[4-[10-[(3-isothiocyanatophenyl)aminothiocarbonylamino]decyl]-1-piperazinyl]acetyl]-6H-pyrido[2,3-b][1,4]-benzodiazepine-6-one (41a, n=10).
5,11-Dihydro-11-[(4-[10-aminodecyl]-1-piperazinyl)acetyl]-6H-pyrido[2,3-b][1,4]-benzodiazepine-6-one (2.8 mg, 5.7 μmol) was dissolved in 0.2 mL DMF and treated with 1,3-phenylenediisothiocyanate (6 mg, 31 μmol). After 0.5 h, ethyl acetate (1 mL) and petroleum ether (3 mL) were added, and the cloudy mixture was stored at 4° C. overnight. The supernatant was decanted from the oily residue. The residue solidified upon trituration with dry ether to give 2.0 mg (51% yield) of pure product (Rf =0.35, silica, chloroform:methanol:acetic acid, 85:10:5, by volume). FAB-MS spectrum showed a parent ion peak at 685 m/z (m+1).

reactant | 5,11-Dihydro-11-[(4-[10-aminodecyl]-1-piperazinyl)acetyl]-6H-pyrido[2,3-b][1,4]-benzodiazepine-6-one | 5.7 μmol, 2.8 mg | NCCCCCCCCCCN1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C28H40N6O2
reactant | 1,3-phenylenediisothiocyanate | 31 μmol, 6 mg | C1(=CC(=CC=C1)N=C=S)N=C=S | C8H4N2S2
reactant | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | 5,11-Dihydro-11-[[4-[10-[(3-isothiocyanatophenyl)aminothiocarbonylamino]decyl]-1-piperazinyl]acetyl]-6H-pyrido[2,3-b][1,4]-benzodiazepine-6-one | 2.0 mg, 51% yield | N(=C=S)C=1C=C(C=CC1)NC(=S)NCCCCCCCCCCN1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C36H44N8O2S2
